* [Disclaimer] (C) Copyright Texas Instruments Incorporated 1999 All rights reserved 
* Texas Instruments Incorporated hereby grants the user of this SPICE Macro-model a 
* non-exclusive, nontransferable license to use this SPICE Macro-model under the following 
* terms. Before using this SPICE Macro-model, the user should read this license. If the 
* user does not accept these terms, the SPICE Macro-model should be returned to Texas 
* Instruments within 30 days. The user is granted this license only to use the SPICE 
* Macro-model and is not granted rights to sell, load, rent, lease or license the SPICE 
* Macro-model in whole or in part, or in modified form to anyone other than user. User may 
* modify the SPICE Macro-model to suit its specific applications but rights to derivative 
* works and such modifications shall belong to Texas Instruments. This SPICE Macro-model is 
* provided on an "AS IS" basis and Texas Instruments makes absolutely no warranty with 
* respect to the information contained herein. TEXAS INSTRUMENTS DISCLAIMS AND CUSTOMER 
* WAIVES ALL WARRANTIES, EXPRESS OR IMPLIED, INCLUDING WARRANTIES OF MERCHANTABILITY OR 
* FITNESS FOR A PARTICULAR PURPOSE. The entire risk as to quality and performance is with 
* the Customer. ACCORDINGLY, IN NO EVENT SHALL THE COMPANY BE LIABLE FOR ANY DAMAGES, 
* WHETHER IN CONTRACT OR TORT,INCLUDING ANY LOST PROFITS OR OTHER INCIDENTAL, CONSEQUENTIAL,
* EXEMPLARY, OR PUNITIVE DAMAGES ARISING OUT OF THE USE OR APPLICATION OF THE SPICE 
* Macro-model provided in this package. Further, Texas Instruments reserves the right to 
* discontinue or make changes without notice to any product herein to improve reliability, 
* function, or design. Texas Instruments does not convey any license under patent rights or 
* any other intellectual property rights, including those of third parties.

*$

* Output stage
* connections:      non-inverting input
*                   | inverting input
*                   | | positive power supply
*                   | | | negative power supply
*                   | | | | output
*                   | | | | |
.subckt THS450x_OP  1 2 3 4 5
* GAIN STAGE SWING LIMIT
  DOPC   1 38  dx
  VOPC   3 38  1.
  DONC  48  1  dx
  VONC  48  4  1.

* UPPER DRIVE STAGE
  ROP   3  34  8.5
  HLP2 34  33  VLP 30
  VOP  33  32  0
  HLP1 35   0  VOP  8
  RLP  35  36  8
  DLP  36  37  dx
  VLP  37   0  0
  EOP  32  31  Poly(2)   2  1  3  4  -.8  1  .5
  DOP  31   5  dx

* LOWER DRIVE STAGE
  DON   5  41  dx
  EON  41  42  Poly(2)   1  2  3  4  -.8  1  .5
  VON  42  43  0
  HLN1 45   0  VON  15
  RLN  45  46  8
  DLN  46  47  dx
  VLN  47   0  0
  HLN2 43  44  VLN 45
  RON  44   4  12

.ends
*$

* THS4505 High Speed Amplifier "macromodel" subcircuit
* Revision 0 February 18.
*   1- This macromodel predicts well: DC, small-signal AC,
*      and transient performance under a wide range of 
*      conditions
*   2- This macromodel does not predict well: distortion
*      (harmonic, intermod, diff. gain & phase, ...),
*      noise, temperature effects, board parasitics, differences
*      between package styles, and process changes
*
* |-------------------------------------------------------------|
* |  This macro model is being supplied as an aid to            |
* |  circuit designs.  While it reflects reasonably close       |
* |  similarity to the actual device in terms of performance,   |
* |  it is not suggested as a replacement for breadboarding.    |
* |  Simulation should be used as a forerunner or a supplement  |
* |  to traditional lab testing.                                |
* |                                                             |
* |  Neither this library nor any part may be copied without    |
* |  the express written consent of Texas Instruments Corp.     |
* |-------------------------------------------------------------|
* 
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | outputn
*                | | | | | outputp
*                | | | | | | Vocm
*                | | | | | | |
*                | | | | | | |
.subckt THS4505  1 2 3 4 5 6 7

*Offset
  Vos  1  9  .004
  Ios  1  2  .25u

* upper Vic range limit
  Vcp   3 16 dc 3.9
  Drc  17 16 dx
  Fcp  10  4 Vcp 10
  Rcp  10 17 10000


* input stage
  rc1  3 11 176.8
  rc2  3 12 176.8
*  c1   11 12 2.2p
  q1   11 2 13 qx1
  q2   12  9 14 qx1
  re1  13 10 170.5
  re2  14 10 170.5
  Cdif  1  2  1p
  Ccm   2 99  0.4p

* lower Vic range limit
  d10  15 10 dx
  v10  15  4 dc -.8

* dc bias settings
  Iee  10  4 dc 3e-3 
  Icc   3  4  9m
  Rcc   3  4  2500
  egnd  99  0  poly(2)  3  0  4  0  0 .5  .5

* gain stage and dominant pole
  ga   21 22 11 12 -5.6549E-3
  ca    21 21a 3.5E-12
  raz   21a 22 .00500
  rap   21 99 50E3
  ran   22 99 50E3

* GAIN STAGE SWING LIMIT
  DPC1  21 23 dx
  DPC2  22 23 dx
  VPC    3 23 1.7
  DNC1  24 21 dx
  DNC2  24 22 dx
  VNC   24  4  1.74

* phase shift stage
  gps   27 29 21 22 -50.0E-6
  rpsp   27 28 10.0E3
  rpsn   29 28 10.0E3
*  cps   27 29 7E-15
  cps   27 29 20E-15

* Output stages
  Xp_OP  27 99  3  4  6 THS450x_OP
  Xn_OP  29 99  3  4  5 THS450x_OP

* Common mode output control
  X_Vcm  7  99  5  6  28 VOCM
.ends
*$

* VCM
* connections:      Vocm
*                   | Egnd
*                   | | outputn
*                   | | | outputp
*                   | | | | Vcm
*                   | | | | |
.subckt VOCM        1 2 3 4 5

  rcmp   3  6  10k
  rcmn   4  6  10k
  ccmp   3  6  2.5p
  ccmn   4  6  2.5p
  rcm    1  2  50k
  gcm    5  2  1  6  -31.6
  rocm   5  2  10
  cocm   5  2  27n

.ends
*$
* Diode Models
.model dx D(Is=800.00E-18)

*$
* Transistor Models
.model qx1 NPN(Is=800.00E-18 Bf=375)

*$
